US06140317
Step 6.2: 4-Hydroxy-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]pyrimidine
2.5 g (97 mmol) of 2-amino-3-ethoxycarbonyl-5-(4-nitro-phenyl)-pyrrole, 19.4 ml of formamide, 9.7 ml of DMF and 3.1 ml of formic acid are stirred together at 150° C. for 22 hours. 1 ml of isopropanol is added to the warm reaction mixture. After the reaction mixture has cooled, the precipitated product is filtered off and washed in succession 3 times with 10 ml of ethanol each time, twice with 10 ml of isopropanol each time and twice with 10 ml of hexane each time. The title compound is obtained in the form of rust-brown crystals which are used for the next step; MS: (M)+ =256.

reactant | 2-amino-3-ethoxycarbonyl-5-(4-nitro-phenyl)-pyrrole | 97 mmol, 2.5 g | NC=1NC(=CC1C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C13H13N3O4
reactant | formamide | 19.4 ml | C(=O)N | CH3NO
reactant | DMF | 9.7 ml | CN(C)C=O | C3H7NO
reactant | formic acid | 3.1 ml | C(=O)O | CH2O2
solvent | isopropanol | 1 ml | C(C)(C)O | C3H8O
product | 4-Hydroxy-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C12H8N4O3
